US08124610B2
1-(4-(trifluoromethyl)benzyl)-1H-pyrazol-4-amine
4-Nitro-1-(4-trifluoromethyl-benzyl)-1H-pyrazole (2.40 g, 0.00867 mol) was dissolved in Methanol (3.0E1 mL, 0.74 mol) and 10% Palladium on carbon (0.180 g) was added. The reaction was hydrogenated under balloon pressure for 2 days. The reaction was filtered through celite and concentrated in vacuo to give 2.08 g of product as a red oil.

reactant | 4-Nitro-1-(4-trifluoromethyl-benzyl)-1H-pyrazole | 0.00867 mol, 2.40 g | [N+](=O)([O-])C=1C=NN(C1)CC1=CC=C(C=C1)C(F)(F)F | C11H8F3N3O2
reactant | Methanol | 0.74 mol, 3.0E1 mL | CO | CH4O
catalyst | Palladium on carbon | 0.180 g | [Pd] | Pd
product | 1-(4-(trifluoromethyl)benzyl)-1H-pyrazol-4-amine | 2.08 g | FC(C1=CC=C(CN2N=CC(=C2)N)C=C1)(F)F | C11H10F3N3
